US07196090B2
7-(4-Amino-2,3-dihydroxy-butylamino)-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-1-ethyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one
7-(4-Amino-2,3-dihydroxy-butylamino)-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-1-ethyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one was prepared as in Example 2 using 0.5 g (1.2 mmol) 3-(2,6-difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-methanesulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one and 0.433 g (3.6 mmol) (S,S)-1,4-diamino-butane-2,3-diol. The final product was purified by column chromatography (40:6:1 dichloromethane/methanol/sat. aqueous ammonium hydroxide solution) which gave 0.24 g (43%) of the final product as a white solid: mp 115° C. (dec.); MS (APCI) m/z 469.1, 470.2.

reactant | 3-(2,6-difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-methanesulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 1.2 mmol, 0.5 g | FC1=C(C(=C(C=C1OC)OC)F)N1C(N(C2=NC(=NC=C2C1)S(=O)C)CC)=O | C17H18F2N4O4S
reactant | (S,S)-1,4-diamino-butane-2,3-diol | 3.6 mmol, 0.433 g | NC[C@@H]([C@H](CN)O)O | C4H12N2O2
product | 7-(4-Amino-2,3-dihydroxy-butylamino)-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-1-ethyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.24 g, 43% | NCC(C(CNC1=NC=C2C(=N1)N(C(N(C2)C2=C(C(=CC(=C2F)OC)OC)F)=O)CC)O)O | C20H26F2N6O5
